US09108969B2
Step D: Preparation of Ethyl 2-(2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-ylidene)acetate
To a solution of ethyl 2-(diethoxyphosphoryl)acetate (3.11 mL, 15.65 mmol) in DMF (10 mL) was added sodium hydride (60% dispersion in mineral oil) (626 mg, 15.65 mmol) at 0° C. The reaction was slowly warmed to room temperature and stirred for 10 min. 2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-one (570 mg, 1.956 mmol) in DMF was added. The reaction was heated at 65° C. for 2 h, cooled down, poured into saturated NH4Cl aqueous solution, and extracted with ethyl acetate. The combined organics were washed with water, dried over anhydrous Na2SO4, and concentrated. The residue was purified by silica gel column chromatography to give the title compound (608 mg). LCMS m/z=362.5 [M+H]+.

reactant | ethyl 2-(diethoxyphosphoryl)acetate | 15.65 mmol, 3.11 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 15.65 mmol, 626 mg | [H-].[Na+]
reactant | 2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-one | 1.956 mmol, 570 mg | C(C1=CC=CC=C1)OC=1C=C2C=C3N(C2=CC1)CCCC3=O | C19H17NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(2-(Benzyloxy)-7,8-dihydropyrido[1,2-a]indol-9(6H)-ylidene)acetate | 608 mg | C(C1=CC=CC=C1)OC=1C=C2C=C3N(C2=CC1)CCCC3=CC(=O)OCC | C23H23NO3
